US05017573
Preparation of N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1H-indazole-3-carboxamide:
To a solution of 6-amino-1-benzyl-4-methyl-hexahydro-1H-1,4-diazepine (1.0 g) in dichloromethane (20 ml), 1H-indazole-3-carboxylic acid (740 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (877 mg) are added, and the resulting mixture is stirred at 25° C. for 2 hours. The reaction mixture is washed successively with water and 10% aqueous sodium hydroxide solution, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure, and the residue is chromatographed on silica gel with elution of acetone. Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (0.9 g) as an oil. The free base thus obtained is converted to the hemifumarate of the title compound in a usual manner, m.p. 192-194° C. (recrystallized from ethanol).

reactant | 6-amino-1-benzyl-4-methyl-hexahydro-1H-1,4-diazepine | 1.0 g | NC1CN(CCN(C1)CC1=CC=CC=C1)C | C13H21N3
reactant | 1H-indazole-3-carboxylic acid | 740 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 877 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(1-benzyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1H-indazole-3-carboxamide | 0.9 g | C(C1=CC=CC=C1)N1CCN(CC(C1)NC(=O)C1=NNC2=CC=CC=C12)C | C21H25N5O
